US06391887B1
8-Bromo-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one
A solution of 1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one (374 mg, 2.0 mmol) in DMF (10 ml) is mixed with N-bromosuccinimide (356 mg, 2.0 mmol). After 15 minutes of stirring at room temperature, the batch is heated for 15 minutes to 100° C., diluted with water and extracted with methyl-tert-butyl ether. The combined extracts are dried (Na2SO4) and concentrated by evaporation in a vacuum. The residue is purified on silica gel with ethyl acetate-hexane: 470 mg (88%) of product.

reactant | 1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one | 2.0 mmol, 374 mg | C1CCC2C(NC=3C=CC=CC3C21)=O | C12H13NO
reactant | N-bromosuccinimide | 2.0 mmol, 356 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 8-Bromo-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one | BrC1=CC=2C3C(C(NC2C=C1)=O)CCC3 | C12H12BrNO
